US04544654
4-[(Methylsulfonyl)amino]benzoic acid sodium salt
To 500 ml of water is added 63.4 g (1.59 mole) of sodium hydroxide and the mixture is stirred until all the solid has dissolved. To this is slowly added 310 g (1.44 mole) of 4-[(methylsulfonyl)amino]benzoic acid. The reaction is stirred for 15 minutes at ambient temperature after all the solid has dissolved. After removal of the water in vacuo, the residue is triturated with isopropyl alcohol, evaporated, triturated with acetone and concentrated in vacuo. The solid is dried under vacuum for 72 hours to provide 333.7 g of the title compound.

reactant | sodium hydroxide | 1.59 mole, 63.4 g | [OH-].[Na+]
reactant | 4-[(methylsulfonyl)amino]benzoic acid | 1.44 mole, 310 g | CS(=O)(=O)NC1=CC=C(C(=O)O)C=C1 | C8H9NO4S
solvent | water | 500 ml | O | H2O
product | 4-[(Methylsulfonyl)amino]benzoic acid sodium salt | 333.7 g | [Na+].CS(=O)(=O)NC1=CC=C(C(=O)[O-])C=C1 | InChI=1S/C8H9NO4S.Na/c1-14(12,13)9-7-4-2-6(3-5-7)8(10)11;/h2-5,9H,1H3,(H,10,11);/q;+1/p-1
